* Z:\mnt\design.r\spice\examples\1244.asc
R1 N018 0 .67
C1 N019 0 220p
C2 N016 0 .1µ
C3 N015 N014 .01µ
R2 N014 N011 100K
R3 N016 N019 12K
R4 N011 0 20K
R5 N018 N017 1K
M§Q1 N004 N013 N018 N018 IRF7303
R6 N013 N012 12
R7 N007 N011 152K
C4 N007 0 .0022µ
C5 N008 0 100p
D1 N008 N007 BAT54
C6 N006 0 22µ
R8 N010 N006 39
D2 N009 N010 BAT54
R9 IN N017 1.32Meg
R10 IN N003 660K
C7 IN N003 470p
L1 N001 0 16µ Rser=.05
L2 N009 0 18.8µ Rser=.1
L3 N004 IN 100µ Rser=.05
D3 N001 N002 MBRS340
C8 N002 0 10µ
L4 N002 +20V 1µ Rpar=100
C9 +20V 0 3.3µ
R11 +20V 0 750
V1 IN 0 200
D4 N005 N006 BZX84C15L
D5 N004 N003 MURS320
R12 N009 N008 510
R13 IN N006 400K
XU1 N015 N011 N017 N019 0 N012 N006 N016 LT1244
D6 0 N005 BZX84C6V2L
C10 N017 0 50p
Rload +20V 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u
K1 L1 L2 L3 1
.lib LT1244.sub
.backanno
.end
